US05698554
1.7 g of dimethylsulfoxide was added to a 25% hydrogen bromide-acetic acid suspension (50 ml) containing 5.30 g of 6-[4-(3-vinylsulfonylaminopropyl)phenyl]-4,5-dihydropyridazin-3(2H)-one, and the mixture was stirred at room temperature for 4.5 hours. After hydrogen bromide and acetic acid were removed, a 15% aqueous sodium methyl mercaptide solution (100 ml) was added to the residue, and the mixture was stirred at 60° C. for 1.5 hours. After cooling, the mixture was neutralized with hydrochloric acid, and crystal was collected by filtration, washed with water, dried and then recrystallized from acetonitrile to obtain 3.90 g of 6-[4-(3-(2-methylthioethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one.

reactant | hydrogen bromide acetic acid | 50 ml | Br.C(C)(=O)O
reactant | 6-[4-(3-vinylsulfonylaminopropyl)phenyl]-4,5-dihydropyridazin-3(2H)-one | 5.30 g | C(=C)S(=O)(=O)NCCCC1=CC=C(C=C1)C=1CCC(NN1)=O | C15H19N3O3S
reactant | dimethylsulfoxide | 1.7 g | CS(=O)C | C2H6OS
product | 6-[4-(3-(2-methylthioethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one | 3.90 g | CSCCS(=O)(=O)NCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C16H21N3O3S2
